US06495551B1
N-[(5S)-3-(3-Fluoro-4-(4-(4-nitrophenoxycarbonyl)imidazol-1-yl)phenyl)-2-oxooxazolidin-5-ylmethyl]acetamide
N-[(5S)-3-(3-Fluoro-4-(4-carboxyimidazol-1-y l)phenyl)-2-oxooxazolidin-5-ylmethyl]acetamide (181 mg, 0.5 mM), 4-nitrophenol (139 mg, 1 mM), dicyclohexylcarbodiimide (144 mg, 0.7 mM) and 4-dimethylaminopyridine (61 mg, 0.5 mM) were dissolved in N,N-dimethylformamide (2 ml). The mixture was stirred at ambient temperature for 17 hours, diluted with dichloromethane (20 ml), washed with 1M aqueous sodium dihydrogen phosphate (10 ml), water (2×10 ml), and dried over magnesium sulfate. After filtration and evaporation to a suitable volume, the solution was chromatographed on a 10 g silica Mega Bond Elut® column, eluting with a gradient increasing in polarity from 0 to 10% methanol in dichloromethane. Relevant fractions were combined and evaporated to give title product (210 mg).

reactant | N-[(5S)-3-(3-Fluoro-4-(4-carboxyimidazol-1-y l)phenyl)-2-oxooxazolidin-5-ylmethyl]acetamide | 0.5 mM, 181 mg | FC=1C=C(C=CC1N1C=NC(=C1)C(=O)O)N1C(O[C@H](C1)CNC(C)=O)=O | C16H15FN4O5
reactant | 4-nitrophenol | 1 mM, 139 mg | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | dicyclohexylcarbodiimide | 0.7 mM, 144 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
catalyst | 4-dimethylaminopyridine | 0.5 mM, 61 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | N-[(5S)-3-(3-Fluoro-4-(4-(4-nitrophenoxycarbonyl)imidazol-1-yl)phenyl)-2-oxooxazolidin-5-ylmethyl]acetamide | 210 mg | FC=1C=C(C=CC1N1C=NC(=C1)C(=O)OC1=CC=C(C=C1)[N+](=O)[O-])N1C(O[C@H](C1)CNC(C)=O)=O | C22H18FN5O7
